US09216972B2
A solution of tert-butyl 2-((1-(4-fluorophenyl)cyclohexyl)methoxy)acetate (Intermediate I-10B, 100 mg, 0.31 mmol) in TFA (1 mL) was stirred at room temperature for 85 min. TFA was removed in vacuo, and the residue was co-evaporated with ether. The residual oil was dried in vacuo to yield 2-((1-(4-fluorophenyl)cyclohexyl)methoxy)acetic acid (79 mg, 96% yield) as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 7.30-7.43 (2H, m), 6.93-7.17 (2H, m), 3.91 (2H, s), 3.46 (2H, s), 2.13 (2H, d, J=13.55 Hz), 1.60-1.76 (2H, m), 1.55 (3H, dd, J=12.17, 3.64 Hz), 1.26-1.44 (3H, m).

reactant | tert-butyl 2-((1-(4-fluorophenyl)cyclohexyl)methoxy)acetate | 0.31 mmol, 100 mg | FC1=CC=C(C=C1)C1(CCCCC1)COCC(=O)OC(C)(C)C | C19H27FO3
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-((1-(4-fluorophenyl)cyclohexyl)methoxy)acetic acid | 79 mg, 96% yield | FC1=CC=C(C=C1)C1(CCCCC1)COCC(=O)O | C15H19FO3
